### PR TITLE
feat: Add Qq versions of `run_tac` & `by_elab`.

### PR DESCRIPTION
**Pull request by mirefek**
Core commands `run_tac` & `by_elab` are handy experimenting / debugging tools. With this PR, their Qq-relatives `run_tacq` & `by_elabq` automatically bring local variables into the context of the code as appropriate Q-annotated expressions.

With thanks to Robin Arnez for the prototype version.

Zulip thread: [#metaprogramming / tactics > Qq context in run_tac @ 💬](https://leanprover.zulipchat.com/#narrow/channel/239415-metaprogramming-.2F-tactics/topic/Qq.20context.20in.20run_tac/near/526077026)

### CODE REVIEW

File: Qq/Commands.lean [hunk 1]
```diff
@@ -0,0 +1,97 @@
...
+Executes arbitrary `TermElabM` code in place of a term.
+Moreover, all variables available in the local context are accessible as
+quoted expressions, and the return value is Q-annotated as well.
+Example:
+```
+def f (x : Prop) [Decidable x] : Int :=
+  by_elabq
+    Lean.logInfo x
+    Lean.logInfo x.ty
+    return q(if $x then 2 else 3)
```
Comment (eric-wieser) [inline Qq/Commands.lean:27]: Could you create a test file with this and more complex examples?

File: Qq/Commands.lean [hunk 2]
```diff
@@ -0,0 +1,97 @@
...
+See also: `by_elabq`.
+-/
+scoped
+elab "run_tacq" e:doSeq : tactic => do
+  let goal ← try
+    getMainGoal
+  catch _ =>
+    throwError "no open goal, run_tacq requires main goal"
+  withMainContext do
+    let goalName := `goalq
```
Comment (eric-wieser) [inline Qq/Commands.lean:77]: I don't like the hygiene here; I think the syntax should be `"run_tacq" goalId:ident "=>" e:doSeq`, where `goalId` is used in place of the constant name `goalq`.

You could also support a version without the `=>` that doesn't do any goal processing.

File: Qq/Commands.lean (hunk 1 above)
Comment (mirefek) [reply Qq/Commands.lean:27]: in `examples`? ok, I will look at it

File: Qq/Commands.lean [hunk 3]
```diff
@@ -0,0 +1,97 @@
...
+elab "by_elabq" e:doSeq : term <= expectedType => do
+  let lctx ← getLCtx
+  let levelNames ← Term.getLevelNames
+  let (quotedCtx, assignments, quotedGoal) ← liftMetaM <| StateT.run'
+        (s := {mayPostpone := False}) do
+    let (quotedCtx, assignments) ← Impl.quoteLCtx lctx levelNames
+    let quotedGoal : Expr ←
+      if expectedType.isMVar then pure q(TermElabM Expr)
+      else pure <| mkApp (mkConst ``TermElabM) (mkApp (mkConst ``Quoted)
+        (← Qq.Impl.quoteExpr expectedType))
```
Comment (eric-wieser) [inline Qq/Commands.lean:41]: I think here you can write
```suggestion
      else
        let expectedTypeQ : Q(Expr) ← Qq.Impl.quoteExpr expectedType
        pure <| q(TermElabM Quoted($expectedTypeQ))
```

File: Qq/Commands.lean [hunk 4]
```diff
@@ -0,0 +1,98 @@
...
+
+namespace Qq
+open Lean Meta Elab Tactic
+
+private
+def mkHaveFVars (assignments : Array Expr) (body : Expr) : MetaM Expr := do
+  let ctx ← getLCtx
+  let (_, res) ← ctx.foldrM (init := (assignments, body)) fun decl (assignments, body) => do
+    let value := assignments.back!
+    let result := .letE decl.userName decl.type value (body.abstract #[.fvar decl.fvarId]) false
```
Comment (eric-wieser) [inline Qq/Commands.lean:12]: Wouldn't a `have` be using `lambda` rather than `let`?

File: Qq/Commands.lean (hunk 1 above)
Comment (mirefek) [reply Qq/Commands.lean:27]: Added examples/commandShowcase.lean

File: Qq/Commands.lean (hunk 4 above)
Comment (mirefek) [reply Qq/Commands.lean:12]: I see, I was wondering if there is a way do all the abstraction at once, which feels more efficient than one by one.

File: Qq/Commands.lean [hunk 5]
```diff
@@ -0,0 +1,103 @@
...
+    Lean.logInfo goal.ty
+  trivial
+```
+See also: `by_elabq`.
+-/
+scoped
+syntax "run_tacq" (ident "=>")? doSeq : tactic
+
+elab_rules : tactic
+| `(tactic| run_tacq $[$gi:ident =>]? $seq:doSeq) => do
```
Comment (mirefek) [inline Qq/Commands.lean:75]: I have to admit that syntax matching is still a bit an alchemy for me -- first I tried to do this with
```
elab "run_tacq" gi:(ident "=>")? seq:doSeq : tactic => do
```
which compiled but then only passed `none` to `gi`. With `elab_rules` it seems working.

File: Qq/Commands.lean (hunk 4 above)
Comment (mirefek) [reply Qq/Commands.lean:12]: This doesn't work
```
  let ctx ← getLCtx
  let ctxLet := ctx.foldl (init := LocalContext.empty) (fun part decl =>
    part.addDecl (.ldecl decl.index decl.fvarId decl.userName
      decl.type assignments[decl.index]! false decl.kind))
  withLCtx ctxLet #[] do
    mkLetFVars assignments body
```

File: examples/commandShowcase.lean [hunk 6]
```diff
@@ -0,0 +1,35 @@
...
+open Qq
+
+-- using the goal type (interpret 2, 3 as Int)
+def f (x : Prop) [Decidable x] : Int :=
+  by_elabq
+    Lean.logInfo x
+    Lean.logInfo x.ty
+    return q(if $x then 2 else 3)
+
+#print f
```
Comment (eric-wieser) [inline examples/commandShowcase.lean:12]: Can you use `guard_msgs` to make this a test?

File: examples/commandShowcase.lean
Comment (eric-wieser) [inline examples/commandShowcase.lean:1]: Please add a test with universes and a test with let

Comment (mirefek) [reply examples/commandShowcase.lean:1]: Done

File: Qq/Commands.lean (hunk 5 above)
Comment (mirefek) [reply Qq/Commands.lean]: Turned out that the option syntax does not suffice in the end (it commits if the first is an ident). So now I have two cases for `elab_rules`.

File: examples/commandShowcase.lean [hunk 7]
```diff
@@ -0,0 +1,77 @@
...
+info: a = b
+---
+info: true
+---
+info: true
+-/
+#guard_msgs in
+example (a b : Nat) (_h : a = b) : True := by
+  run_tacq
+    let p : Q(Prop) := q($a = $b)
```
[the remark this answers is not in the document]
Comment (mirefek) [reply examples/commandShowcase.lean:34]:
```
a b : Q(Nat)
_h : Q(«$a» = «$b»)
⊢ Q(Prop)
```

[the remark this answers is not in the document]
Comment (mirefek) [reply examples/commandShowcase.lean]: ok, added

File: examples/commandShowcase.lean [hunk 8]
```diff
@@ -0,0 +1,83 @@
...
+example {α : Type u} {β : Type v} (f₀ : α → β) (f₁ : β → α)
+    (b : β) (h : f₀ (f₁ b) = b) :
+    let f₂ := f₀ ∘ f₁
+    b = f₂ b := by
+  intro f₂
+  run_tacq goal =>
+    Lean.logInfo u
+    Lean.logInfo α
+    Lean.logInfo f₂.ty
+    assignQ goal q(Eq.symm $h)
```
Comment (eric-wieser) [inline examples/commandShowcase.lean:83]:
```suggestion
    assignQ q($goal) q(Eq.symm $h)
```

File: Qq/Commands.lean [hunk 9]
```diff
@@ -0,0 +1,110 @@
...
+    Lean.logInfo p
+    Lean.logInfo <| toString (← Lean.Meta.isDefEq t p)
+    Lean.logInfo <| toString (← Lean.Meta.isDefEq h.ty p)
+    Lean.logInfo goal
+    Lean.logInfo goal.ty
+  trivial
+```
+See also: `by_elabq`.
+-/
+scoped
```
Comment (eric-wieser) [inline Qq/Commands.lean:73]: This only applies to the first one

File: examples/commandShowcase.lean (hunk 8 above)
Comment (mirefek) [reply examples/commandShowcase.lean:83]: that doesn't work, it has limits :-D

File: Qq/Commands.lean [hunk 10]
```diff
@@ -0,0 +1,110 @@
...
+syntax "run_tacq" ident "=>" doSeq : tactic
```
[the remark this answers is not in the document]
Comment (mirefek) [reply Qq/Commands.lean:74]: No, then e.g.
```
run_tacq
  logInfo "hello"
```
crashes on `unexpected token; expected '=>'`

File: examples/commandShowcase.lean (hunk 8 above)
Comment (mirefek) [reply examples/commandShowcase.lean:74]:
```
example (a b : Nat) (h : False) : a = b := by
  -- run_tacq goal =>
  run_tac
    let lctx ← getLCtx
    have a : Q(Nat) := Expr.fvar (lctx.findFromUserName? `a).get!.fvarId
    have b : Q(Nat) := Expr.fvar (lctx.findFromUserName? `b).get!.fvarId
    have goal : Q($a = $b) := Expr.mvar (← getMainGoal)
    have h : Q(False) := Expr.fvar (lctx.findFromUserName? `h).get!.fvarId
    Lean.logInfo m!"{goal.isMVar}"
    Lean.logInfo goal.ty
    assignQ q($goal) q(False.elim $h)
```

Comment (mirefek) [reply examples/commandShowcase.lean:74]: quote the contrary, `assignQ q($goal) q(Eq.symm $h)` doesn't work no matter if assignQ takes `Type`, or `Type u`.

Comment (eric-wieser) [reply examples/commandShowcase.lean:74]: It should be Sort u

Comment (mirefek) [reply examples/commandShowcase.lean:74]: And what should we do about it? In my view it would be nice to have but it doesn't work, and it is unrelated to this PR.

Comment (Rob23oba) [reply examples/commandShowcase.lean:74]:
```
def assignQ {α : Q(Sort u)} (mvar : Q($α)) (val : Q($α)) : Lean.Meta.MetaM Unit :=
  mvar.mvarId!.assign val
```

Comment (mirefek) [reply examples/commandShowcase.lean:74]: failed to evaluate expression, it contains metavariables

Comment (mirefek) [reply examples/commandShowcase.lean:74]: ah, ok

File: Qq/Macro.lean [hunk 11]
```diff
@@ -414,6 +414,42 @@ partial def quoteExpr : Expr → QuoteM Expr
...
+def quoteLCtx (ctx : LocalContext) (levelNames : List Name) :
+    Qq.Impl.UnquoteM (LocalContext × Array Expr) := do
+  let mut quotedCtx := LocalContext.empty
+  let mut assignments : Array Expr := #[]
+  for nm in levelNames do
+    let fid ← mkFreshFVarId
+    quotedCtx := quotedCtx.mkLocalDecl
+      fid nm (mkConst ``Level) .default .default
+    modify (fun qctx : Qq.Impl.UnquoteState => {qctx with
+      levelBackSubst := qctx.levelBackSubst.insert (.param nm) (.fvar fid)})
```
Comment (Rob23oba) [inline Qq/Macro.lean:430]:
```suggestion
    modify fun s => { s with levelBackSubst := s.levelBackSubst.insert (.param nm) (.fvar fid) }
```

File: Qq/Macro.lean [hunk 12]
```diff
@@ -414,6 +414,42 @@ partial def quoteExpr : Expr → QuoteM Expr
   | .proj n i e => return mkApp3 (.const ``Expr.proj []) (toExpr n) (toExpr i) (← quoteExpr e)
   | .mdata _ e => quoteExpr e
 
+/--
+Translates an arbitrary local context to a context of
+Q-annotated expressions. Used by `by_elabq` and `run_tacq`.
+-/
+def quoteLCtx (ctx : LocalContext) (levelNames : List Name) :
+    Qq.Impl.UnquoteM (LocalContext × Array Expr) := do
```
Comment (Rob23oba) [inline Qq/Macro.lean:422]:
```suggestion
    UnquoteM (LocalContext × Array Expr) := do
```

File: Qq/Macro.lean [hunk 13]
```diff
@@ -414,6 +414,42 @@ partial def quoteExpr : Expr → QuoteM Expr
...
+      let eqFid ← mkFreshFVarId
+      let level ← getLevel type
+      let quotedLevel ← (quoteLevel (← instantiateLevelMVars level))
+      let quotedValue ← (quoteExpr (← instantiateMVars decl.value))
+      quotedCtx := quotedCtx.mkLocalDecl eqFid (← mkFreshUserName `eq)
+        (mkApp4 (mkConst ``QuotedDefEq) quotedLevel quotedType (.fvar fid) quotedValue)
+      assignments := assignments.push
+        (mkApp4 (mkConst ``QuotedDefEq.unsafeIntro) quotedLevel quotedType (.fvar fid) quotedValue)
+    modify fun qctx => {qctx with
+      exprBackSubst := qctx.exprBackSubst.insert (.fvar decl.fvarId) (.quoted (.fvar fid)) }
```
Comment (Rob23oba) [inline Qq/Macro.lean:450]:
```suggestion
    modify fun s => { s with
      exprBackSubst := s.exprBackSubst.insert (.fvar decl.fvarId) (.quoted (.fvar fid)) }
```

File: Qq/Commands.lean [hunk 14]
```diff
@@ -0,0 +1,109 @@
+import Qq.Macro
+import Lean
+
```
Comment (Rob23oba) [inline Qq/Commands.lean:3]: Add a module docstring, e.g.
```suggestion
/-!
# `run_tacq` and `by_elabq`

This file provides Qq analogues to `by_elab` and `run_tac`.
-/

```

File: Qq/Commands.lean [hunk 15]
```diff
@@ -0,0 +1,109 @@
...
+    Lean.logInfo goal
+    Lean.logInfo goal.ty
+  trivial
+```
+See also: `by_elabq`.
+-/
+scoped syntax "run_tacq" ident "=>" doSeq : tactic
+scoped syntax "run_tacq" doSeq : tactic
+
+def runTacq (gi : Option Name) (seq : TSyntax `Lean.Parser.Term.doSeq) : TacticM Unit := do
```
Comment (Rob23oba) [inline Qq/Commands.lean:76]:
```suggestion
scoped syntax "run_tacq " optional(atomic(ident " =>")) doSeq : tactic

elab_rules | `(tactic| run_tacq $[$gi:ident =>]? $seq:doSeq) =>
```

File: Qq/Commands.lean [hunk 16]
```diff
@@ -0,0 +1,109 @@
...
+  let goal ← try
+    getMainGoal
+  catch _ =>
+    throwError "no open goal, run_tacq requires main goal"
+  withMainContext do
```
Comment (Rob23oba) [inline Qq/Commands.lean:81]:
```suggestion
  goal.withContext do
```
I mean, if we get it already...

File: Qq/Commands.lean [hunk 17]
```diff
@@ -0,0 +1,109 @@
...
+    let lctx ← getLCtx
+    let levelNames ← Term.getLevelNames
+    let target ← getMainTarget
```
Comment (Rob23oba) [inline Qq/Commands.lean:84]:
```suggestion
    let target ← instantiateMVars (← goal.getType)
```

File: Qq/Commands.lean [hunk 18]
```diff
@@ -0,0 +1,109 @@
...
+    let (quotedCtx, assignments) ← liftMetaM <| StateT.run'
+          (s := {mayPostpone := False}) do
```
Comment (Rob23oba) [inline Qq/Commands.lean:86]:
```suggestion
          (s := { mayPostpone := false }) do
```

File: Qq/Commands.lean [hunk 19]
```diff
@@ -0,0 +1,109 @@
...
+    mkLetFVarsFromValues assignments body
+  let code ← unsafe evalExpr (TermElabM Expr) q(TermElabM Expr) codeExpr
+  code
+
+/--
+`run_tacq` is a Qq-analogue to `run_tac`
+Executes an arbitrary `TacticM` code. Moreover, the local
+context can be directly accessed as quoted expressions.
+Optionally, user can also save the annotated goal using
+syntax `run_tacq $g =>`
```
Comment (Rob23oba) [inline Qq/Commands.lean:57]:
```suggestion
`run_tacq` is the Qq analogue to `run_tac` which allows executing arbitrary `TacticM` code.
In contrast to `run_tac`, the local context of the main goal can be directly accessed as quoted
expressions. Optionally, the annotated goal can also be saved using the syntax `run_tacq $g =>`.
```

File: Qq/Commands.lean [hunk 20]
```diff
@@ -0,0 +1,109 @@
...
+  let fvars : Array Expr := ctx.foldl (init := #[]) (fun part decl =>
+    part.push (.fvar decl.fvarId))
+  withLCtx ctxLet #[] do
+    mkLetFVars fvars body
+
+/--
+`by_elabq` is the Qq analogue to `by_elab`
+Executes arbitrary `TermElabM` code in place of a term.
+Moreover, all variables available in the local context are accessible as
+quoted expressions, and the return value is Q-annotated as well.
```
Comment (Rob23oba) [inline Qq/Commands.lean:22]:
```suggestion
`by_elabq` is the Qq analogue to `by_elab` which allows executing arbitrary `TermElabM` code in
place of a term. In contrast to `by_elab`, the local context can be directly accessed as quoted
expressions and the return type is Q-annotated.
```

**Review by Rob23oba — COMMENTED** [review]
Some small style fixes

File: Qq/Commands.lean (hunk 15 above)
Comment (mirefek) [reply Qq/Commands.lean:78]: Also, `elab_rules` needs to be annotated as `:tactic`, and start a `do` block, I don't think it can work without it.

File: Qq/Commands.lean (hunk 10 above)
[the remark this answers is not in the document]
Comment (mirefek) [reply Qq/Commands.lean]: In the end, I used Rob's suggestion for `syntax "run_tacq" (atomic(ident "=>"))? doSeq : tactic`

File: examples/commandShowcase.lean [hunk 21]
```diff
@@ -0,0 +1,83 @@
...
+---
+info: β → β
+-/
+#guard_msgs in
+example {α : Type u} {β : Type v} (f₀ : α → β) (f₁ : β → α)
+    (b : β) (h : f₀ (f₁ b) = b) :
+    let f₂ := f₀ ∘ f₁
+    b = f₂ b := by
+  intro f₂
+  run_tacq goal =>
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply examples/commandShowcase.lean:70]: I don't see a `trace_state` in this test yet.

[the remark this answers is not in the document]
Comment (mirefek) [reply examples/commandShowcase.lean:70]: oh sorry, I thought the comment was about a different test

File: examples/commandShowcase.lean [hunk 22]
```diff
@@ -0,0 +1,74 @@
...
+trace: a b : Q(Nat)
+_h : Q(«$a» = «$b»)
+⊢ Q(Prop)
+-/
+#guard_msgs in
+example (a b : Nat) (_h : a = b) : True := by
+  run_tacq
+    let p : Q(Prop) := by
+      trace_state
+      exact q($a = $b)
```
Comment (eric-wieser) [inline examples/commandShowcase.lean:34]:
```suggestion
    Lean.Elab.Tactic.evalTraceState (← Lean.getRef)
    let p : Q(Prop) :=q($a = $b)
```

File: examples/commandShowcase.lean (hunk 21 above)
[the remark this answers is not in the document]
Comment (mirefek) [reply examples/commandShowcase.lean:76]: now done

File: examples/commandShowcase.lean [hunk 23]
```diff
@@ -0,0 +1,78 @@
...
+info: x
+---
+info: Prop
+-/
+#guard_msgs in
+def f (x : Prop) [Decidable x] : Int :=
+  by_elabq
+    Lean.logInfo x
+    Lean.logInfo x.ty
+    return q(if $x then 2 else 3)
```
Comment (eric-wieser) [inline examples/commandShowcase.lean:16]: Does this work?
```suggestion
macro "trace_state" : doElem => `(doElem| (by trace_state; exact pure ()))

-- using the goal type (interpret 2, 3 as Int)
#guard_msgs in
def f (x : Prop) [Decidable x] : Int :=
  by_elabq
    trace_state
    return q(if $x then 2 else 3)
```

File: examples/commandShowcase.lean (hunk 6 above)
Comment (eric-wieser) [reply examples/commandShowcase.lean:18]: Let's just delete this line, if it's not being tested. I think mathlib moved away from noisy tests, and we should do the same here.

File: Qq/Macro.lean [hunk 24]
```diff
@@ -414,6 +414,41 @@ partial def quoteExpr : Expr → QuoteM Expr
...
+    let quotedType ← quoteExpr type
+    quotedCtx := quotedCtx.mkLocalDecl fid decl.userName
+      (mkApp (mkConst ``Quoted) quotedType) decl.binderInfo
+    assignments := assignments.push (toExpr (Expr.fvar decl.fvarId))
+    if decl.isLet then
+      let eqFid ← mkFreshFVarId
+      let level ← getLevel type
+      let quotedLevel ← (quoteLevel (← instantiateLevelMVars level))
+      let quotedValue ← (quoteExpr (← instantiateMVars decl.value))
+      quotedCtx := quotedCtx.mkLocalDecl eqFid (← mkFreshUserName `eq)
```
Comment (eric-wieser) [inline Qq/Macro.lean:444]: Perhaps we should use ``decl.userName ++ `eq`` as the name here?

File: examples/commandShowcase.lean (hunk 6 above)
Comment (mirefek) [reply examples/commandShowcase.lean:18]: Ok, should I also rename the file from Showcase to Test? Originally, I intended to use it to show how `run_tacq` can be used but now it is more steered to be mostly a sanity check.

File: examples/commandShowcase.lean (hunk 23 above)
Comment (mirefek) [reply examples/commandShowcase.lean:16]: Yes, that works, not sure if `trace_state` is the best name.

Comment (eric-wieser) [reply examples/commandShowcase.lean:16]: It's local to the test file so I wouldn't worry too much

Comment (eric-wieser) [reply examples/commandShowcase.lean:16]: What matters is that this should let us see what lean elaborated the goal type to!

Comment (mirefek) [reply examples/commandShowcase.lean:16]: I would also change it to ``(doElem| pure (by trace_state; exact ()))` to have shorter goal.

File: Qq/Macro.lean (hunk 24 above)
Comment (mirefek) [reply Qq/Macro.lean]: done

File: Qq/Commands.lean [hunk 25]
```diff
@@ -0,0 +1,105 @@
...
+    let (quotedCtx, assignments) ← liftMetaM <| StateT.run'
+          (s := { mayPostpone := false }) do
+      let (quotedCtx, assignments) ← Impl.quoteLCtx lctx levelNames
+      match gi with
+      | none => return (quotedCtx, assignments)
+      | some goalName =>
+        let quotedTarget ← Qq.Impl.quoteExpr target
+        let goalFid ← mkFreshFVarId
+        let quotedCtx := quotedCtx.mkLocalDecl goalFid goalName.getId
+          (mkApp (mkConst ``Quoted) quotedTarget) .default
```
[the remark this answers is not in the document]
Comment (mirefek) [reply Qq/Commands.lean:96]: hm, I tried
```
    let (quotedCtx, assignments, goalInfo?) ← liftMetaM <| StateT.run'
      ...
        return (quotedCtx, assignments,
          some (quotedTarget, goalName, goalFid))
    match goalInfo? with
    | some (quotedTarget, goalName, goalFid) =>
      discard <|
        Term.addTermInfo goalName (.fvar goalFid) quotedTarget (isBinder := true)
    | none => pure ()
```
doesn't seem working so far

File: examples/commandShowcase.lean (hunk 23 above)
Comment (eric-wieser) [reply examples/commandShowcase.lean]: I think it's better showing the current monad to make the comments match what the editor shows.

File: examples/commandTest.lean [hunk 26]
```diff
@@ -2,36 +2,34 @@ import Qq
...
+macro "trace_state" : doElem => `(doElem| pure (by trace_state; exact ()))
+
 -- using the goal type (interpret 2, 3 as Int)
 /--
-info: x
----
-info: Prop
+trace: x : Q(Prop)
+inst✝ : Q(Decidable «$x»)
+⊢ PUnit
```
Comment (eric-wieser) [inline examples/commandTest.lean:11]: This is supposed to be showing `Q(Int)` or `TermElab Q(Int)`...

Comment (mirefek) [reply examples/commandTest.lean:11]: well no, because it is a single line of the do block which doesn't return anything

Comment (eric-wieser) [reply examples/commandTest.lean:11]: Ah, then I guess `trace_state` is wrong.

File: Qq/Commands.lean (hunk 25 above)
[the remark this answers is not in the document]
Comment (mirefek) [reply Qq/Commands.lean:96]: I was just missing the context, done

File: examples/commandTest.lean [hunk 27]
```diff
@@ -0,0 +1,95 @@
...
+inst✝ : Q(Decidable «$x»)
+⊢ TermElabM Q(Int)
+-/
+#guard_msgs in
+def f₁ (x : Prop) [Decidable x] : Int :=
+  by_elabq
+    trace_return q(if $x then 2 else 3)
+
+def add_self_37 {α : Type u} [Add α] (a : α) : α :=
+  by_elabq return (List.range 36).foldr (init := q($a)) fun _ acc => q($acc + $a)
```
Comment (eric-wieser) [inline examples/commandTest.lean:21]: This test doesn't work if I replace `u` with `_`; do you agree that it should?

File: Qq/Commands.lean [hunk 28]
```diff
@@ -0,0 +1,105 @@
...
+/-!
+# `run_tacq` and `by_elabq`
+
+This file provides Qq analogues to `by_elab` and `run_tac`.
+-/
+
+namespace Qq
+open Lean Meta Elab Tactic
+
+private def mkLetFVarsFromValues (values : Array Expr) (body : Expr) : MetaM Expr := do
```
[the remark this answers is not in the document]
Comment (mirefek) [reply Qq/Commands.lean:17]: done

File: examples/commandTest.lean (hunk 27 above)
Comment (mirefek) [reply examples/commandTest.lean:21]: In general, `by_elabq` cannot assign metavariables in the term. Is Qq even capable of that?

Comment (mirefek) [reply examples/commandTest.lean:21]: for example, this fails too
```
def f₂ x := by_elabq return q(@id Nat x) -- resulting term contains metavariable
```
It fails already in the initial process of quoting the context. At some point, I thought I could fix that by setting anything with metavariables in their type as bare `Expr`, on the other hand, even then Qq doesn't unify on its own, e.g. this fails too
```
def f₂ x := by_elab -- failed to infer binder type
  let lctx ← getLCtx
  let x : Q(Nat) := Expr.fvar (lctx.findFromUserName? `x).get!.fvarId
  return q(@id Nat $x)
```

Comment (mirefek) [reply examples/commandTest.lean:21]: Actually, it might not be that hard, just whenever unknown metavariables are encountered in a type / value of the decl, add them as free variables to the meta-context. Only in case there is a dependency between them, they must be added in the correct order. I can look at it at some point (but don't have time for it today).

File: Qq/Commands.lean [hunk 29]
```diff
@@ -0,0 +1,110 @@
...
+    return q(if $x then 2 else 3)
+```
+See also: `run_tacq`.
+-/
+scoped
+elab "by_elabq" e:doSeq : term <= expectedType => do
+  let lctx ← getLCtx
+  let levelNames ← Term.getLevelNames
+  let (quotedCtx, assignments, quotedGoal) ← liftMetaM <| StateT.run'
+        (s := {mayPostpone := False}) do
```
Comment (Rob23oba) [inline Qq/Commands.lean:45]: Minor style fix I missed before
```suggestion
        (s := { mayPostpone := false }) do
```

File: Qq/Commands.lean [hunk 30]
```diff
@@ -0,0 +1,110 @@
...
+        let quotedTarget: Expr ← Qq.Impl.quoteExpr target
+        let goalFid ← mkFreshFVarId
+        let quotedCtx := quotedCtx.mkLocalDecl goalFid goalName.getId
+          (mkApp q(Quoted) quotedTarget) .default
+        let assignments := assignments.push (toExpr (Expr.mvar goal))
+        return (quotedCtx, assignments, some (goalName, goalFid))
+    let codeExpr : Expr ← withLCtx quotedCtx #[] do
+      if let .some (goalName, goalFid) := goalInfo? then
+        discard <| Term.addTermInfo' (isBinder := true) goalName (Expr.fvar goalFid)
+      let body ← Term.elabTermAndSynthesize (← `(discard do $seq)) q(TacticM Unit)
```
Comment (Rob23oba) [inline Qq/Commands.lean:105]:
```suggestion
      let body ← Term.elabTermEnsuringType (← `(discard do $seq)) q(TacticM Unit)
      synthesizeSyntheticMVarsNoPostponing
      let body ← instantiateMVars body
      if (← logUnassignedUsingErrorInfos (← getMVars body)) then throwAbortTerm
```
Same thing

File: Qq/Commands.lean [hunk 31]
```diff
@@ -0,0 +1,110 @@
...
+    let (quotedCtx, assignments, goalInfo?) ← liftMetaM <| StateT.run'
+          (s := { mayPostpone := false }) do
+      let (quotedCtx, assignments) ← Impl.quoteLCtx lctx levelNames
+      match gi with
+      | none => return (quotedCtx, assignments, none)
+      | some goalName =>
+        let quotedTarget: Expr ← Qq.Impl.quoteExpr target
+        let goalFid ← mkFreshFVarId
+        let quotedCtx := quotedCtx.mkLocalDecl goalFid goalName.getId
+          (mkApp q(Quoted) quotedTarget) .default
```
Comment (Rob23oba) [inline Qq/Commands.lean:99]:
```suggestion
        let quotedTarget : Q(Expr) ← Qq.Impl.quoteExpr target
        let goalFid ← mkFreshFVarId
        let quotedCtx := quotedCtx.mkLocalDecl goalFid goalName.getId
          q(Quoted $quotedTarget) .default
```

File: Qq/Macro.lean [hunk 32]
```diff
@@ -414,6 +414,40 @@ partial def quoteExpr : Expr → QuoteM Expr
...
+    let quotedType ← quoteExpr type
+    quotedCtx := quotedCtx.mkLocalDecl fid decl.userName
+      (mkApp (mkConst ``Quoted) quotedType) decl.binderInfo
+    assignments := assignments.push (toExpr (Expr.fvar decl.fvarId))
+    if decl.isLet then
+      let eqFid ← mkFreshFVarId
+      let level ← getLevel type
+      let quotedLevel ← quoteLevel (← instantiateLevelMVars level)
+      let quotedValue ← quoteExpr (← instantiateMVars decl.value)
+      quotedCtx := quotedCtx.mkLocalDecl eqFid (← mkFreshUserName (decl.userName ++ `eq))
```
Comment (Rob23oba) [inline Qq/Macro.lean:443]: The `.eq` feels awkward as a variable name; maybe `decl.userName.appendAfter "_eq"`?

File: Qq/Commands.lean [hunk 33]
```diff
@@ -0,0 +1,110 @@
...
+    Lean.logInfo x
+    Lean.logInfo x.ty
+    return q(if $x then 2 else 3)
+```
+See also: `run_tacq`.
+-/
+scoped
+elab "by_elabq" e:doSeq : term <= expectedType => do
+  let lctx ← getLCtx
+  let levelNames ← Term.getLevelNames
```
[the remark this answers is not in the document]
Comment (mirefek) [reply Qq/Commands.lean]: done

File: Qq/Macro.lean (hunk 32 above)
Comment (mirefek) [reply Qq/Macro.lean]: done

File: Qq/Commands.lean [hunk 34]
```diff
@@ -0,0 +1,116 @@
...
+See also: `run_tacq`.
+-/
+scoped
+elab "by_elabq" e:doSeq : term <= expectedType => do
+  let lctx ← getLCtx
+  let levelNames := (← Term.getLevelNames).reverse -- these are backwards!
+  let (quotedCtx, assignments, quotedGoal) ← liftMetaM <| StateT.run'
+        (s := { mayPostpone := false }) do
+    let (quotedCtx, assignments) ← Impl.quoteLCtx lctx levelNames
+    let quotedGoal : Q(Type) ←
```
Comment (Rob23oba) [inline Qq/Commands.lean:47]:
```suggestion
    let expectedType ← instantiateMVars expectedType
    let quotedGoal : Q(Type) ←
```

**Review by eric-wieser — APPROVED** [review]
I'm now happy with this

Any final comments @Rob23oba? It would be great to land this today to get it into the next tagged mathlib release.
